US08309580B2
(2) methyl 2-hydroxy-3-{methyl[(2-nitrophenyl)sulfonyl]amino}propanoate
A mixture of methyl 2-hydroxy-3-{[(2-nitrophenyl)sulfonyl]amino}propanoate (1.1 g), cesium carbonate (1.4 g), methyl iodide (0.3 mL) and N,N-dimethylformamide (10 mL) was stirred overnight at room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound (1.1 g, 100%) as an oil.

reactant | methyl 2-hydroxy-3-{[(2-nitrophenyl)sulfonyl]amino}propanoate | 1.1 g | OC(C(=O)OC)CNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C10H12N2O7S
reactant | cesium carbonate | 1.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl iodide | 0.3 mL | CI | CH3I
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl 2-hydroxy-3-{methyl[(2-nitrophenyl)sulfonyl]amino}propanoate | 1.1 g, 100% | OC(C(=O)OC)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C11H14N2O7S
